US07642361B2
4-Cyano-3-(4-isopropylcarbamoyl-phenyl)-5-methylsulfanyl-thiophene-2-carboxylic acid
Combine 3-(4-Carboxy-phenyl)-4-cyano-5-methylsulfanyl-thiophene-2-carboxylic acid (0.1 g, 1.0 eq) in CH2Cl2 (5.0 mL) and stir. Add carbonyldiimidazole (2.0 eq). Stir the mixture overnight. Add isopropylamine (1.0 eq) and stir overnight at room temperature. Add 1N HCl water solution. Filter the precipitate to provide the title compound (0.03 g, Yield 27%). MS (ES+, m/e): 361 (M+1).

reactant | 3-(4-Carboxy-phenyl)-4-cyano-5-methylsulfanyl-thiophene-2-carboxylic acid | 0.1 g, 1.0 eq | C(=O)(O)C1=CC=C(C=C1)C1=C(SC(=C1C#N)SC)C(=O)O | C14H9NO4S2
reactant | carbonyldiimidazole | 2.0 eq | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | isopropylamine | 1.0 eq | C(C)(C)N | C3H9N
reactant | HCl water | 1N | O.Cl
solvent | CH2Cl2 | 5.0 mL | C(Cl)Cl | CH2Cl2
product | 4-Cyano-3-(4-isopropylcarbamoyl-phenyl)-5-methylsulfanyl-thiophene-2-carboxylic acid | 0.03 g, Yield 27% | C(#N)C=1C(=C(SC1SC)C(=O)O)C1=CC=C(C=C1)C(NC(C)C)=O | C17H16N2O3S2
